US07326718B2
4. 8-(trans-2,3-Dihydro-2-hydroxy-1-indenylamino)-6-(N,N-dimethylamino-carbonyl)-2,3-dimethyl-imidazo[1,2-a]pyridine
3.0 g (8.9 mmol)-8-(trans-2,3-dihydro-2-hydroxy-1-indenylamino)-2,3-dimethyl-imidazo[1,2-a]pyridine-6-carboxylic acid and 3.7 g (11.6 mmol) —O-(1H-benzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium tetrafluoroborate (TBTU) are suspended in 150 ml dichloromethane and 3.2 ml (17.8 mmol) dimethylamine (5.6 M in ethanol) are added to the reaction mixture. After stirring for 16 h at room temperature, the reaction mixture is extracted with saturated aqueous sodium hydrogencarbonate. The organic phase is separated, dried over anhydrous magnesium sulphate and evaporated. The residue is dissolved in 10 ml dichloromethane and 50 ml diethyl ether are added. After stirring for 30 min, the precipitate is collected, washed with diethyl ether and dried in vacuo to give 2.35 g (73%) of the title compound as a colourless solid (m.p. 148-149° C.).

reactant | 8-(trans-2,3-dihydro-2-hydroxy-1-indenylamino)-2,3-dimethyl-imidazo[1,2-a]pyridine-6-carboxylic acid | O[C@H]1[C@@H](C2=CC=CC=C2C1)NC=1C=2N(C=C(C1)C(=O)O)C(=C(N2)C)C | C19H19N3O3
reactant | dimethylamine | 17.8 mmol, 5.6 M, 3.2 ml | CNC | C2H7N
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
product | 8-(trans-2,3-Dihydro-2-hydroxy-1-indenylamino)-6-(N,N-dimethylamino-carbonyl)-2,3-dimethyl-imidazo[1,2-a]pyridine | 2.35 g, 73% | O[C@H]1[C@@H](C2=CC=CC=C2C1)NC=1C=2N(C=C(C1)C(=O)N(C)C)C(=C(N2)C)C | C21H24N4O2
